US08138168B1
Synthesis of (R)-3-amino-1((R)-3-(5,6-dichloro-1-(3-methoxypropyl)-1H-benzo[d]imidazol-2-yl)piperidin-1-yl)-4-(naphthalen-2-yl)butan-1-one (81)
The title compound was prepared according to the procedure outlined in Example DI, Steps A-F, using reagents (R)-3-(tert-butoxycarbonylamino)-4-(naphthalen-2-yl)butanoic acid and (R)-5,6-dichloro-1-(3-methoxypropyl)-2-(piperidin-3-yl)-1H-benzo[d]imidazole in Step E. ESI-MS: m/z 553.4 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.35-1.52 (m, 1H) 1.65-1.89 (m, 3H) 1.91-2.10 (m, 2H) 2.60-2.82 (m, 2H) 2.89-3.18 (m, 7H) 3.18-3.44 (m, 3H) 3.69-3.99 (m, 2H) 4.07-4.21 (m, 1H) 4.23-4.53 (m, 2H) 7.40-7.57 (m, 3H) 7.75-8.00 (m, 6H).

reactant | (R)-3-(tert-butoxycarbonylamino)-4-(naphthalen-2-yl)butanoic acid | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | (R)-5,6-dichloro-1-(3-methoxypropyl)-2-(piperidin-3-yl)-1H-benzo[d]imidazole | ClC1=CC2=C(N(C(=N2)[C@H]2CNCCC2)CCCOC)C=C1Cl | C16H21Cl2N3O
product | (R)-3-amino-1((R)-3-(5,6-dichloro-1-(3-methoxypropyl)-1H-benzo[d]imidazol-2-yl)piperidin-1-yl)-4-(naphthalen-2-yl)butan-1-one | N[C@@H](CC(=O)N1C[C@@H](CCC1)C1=NC2=C(N1CCCOC)C=C(C(=C2)Cl)Cl)CC2=CC1=CC=CC=C1C=C2 | C30H34Cl2N4O2
